US06900215B2
3-Fluoro-4,4-dimethoxybutan-2-one (prepared according to Funabiki et al., J. Chem Soc., Perkin Trans. 1, 1997, 2679) (0.56 g, 3.75 mmol) was cyclized with 2-aminoimidazole hemisulfate as described in Example 2 to give 6-fluoro-7-methylimidazo[1,2-α]pyrimidine (62 mg, 11%) as an off-white solid: δH (360 MHz, CDCl3) 2.64 (3H, d, J 3), 7.48 (1H, d, J 1), 7.78 (1H, d, J 1), 8.25 (1H, d, J 4).

reactant | 3-Fluoro-4,4-dimethoxybutan-2-one | 3.75 mmol, 0.56 g | FC(C(C)=O)C(OC)OC | C6H11FO3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 6-fluoro-7-methylimidazo[1,2-α]pyrimidine | 62 mg, 11% | FC=1C(=NC=2N(C1)C=CN2)C | C7H6FN3
